US08809339B2
3-(3-(4-(piperidin-1-yl)-2-(5-(3-(trifluoromethyl)phenyl)pyrimidin-2-yl-carbamoyl)phenylcarbamoyl)benzylthio)propanoic acid
Into a 50-mL round bottom flask, was placed a solution of tert-butyl 3-(3-(4-(piperidin-1-yl)-2-(5-(3-(trifluoromethyl)phenyl)pyrimidin-2-ylcarbamoyl)phenylcarbamoyl)benzylthio)propanoate (250 mg, 0.35 mmol, 1.00 equiv) in dichloromethane (3.5 mL), and 2,2,2-trifluoroacetic acid (1.7 mL). The resulting solution was stirred for 2 h at 25° C. The resulting mixture was concentrated under vacuum. The crude product (200 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 12.9 mg (6%) of a light yellow solid. 1H-NMR (300 MHz, DMSO-d6, ppm): δ 11.38 (s, 1H), 11.19 (s, 1H), 9.10 (s, 2H), 8.04-8.20 (m, 3H), 7.62-7.79 (m, 5H), 7.37-7.49 (m, 3H), 3.76 (s, 4H), 3.29 (s, 6H), 2.40-2.44 (m, 2H), 1.68 (m, 4H), 1.53-1.54 (d, J=3.6 Hz, 2H). MS (ES, m/z): 664.00 [M+H]+.

reactant | tert-butyl 3-(3-(4-(piperidin-1-yl)-2-(5-(3-(trifluoromethyl)phenyl)pyrimidin-2-ylcarbamoyl)phenylcarbamoyl)benzylthio)propanoate | 0.35 mmol, 250 mg, 1.00 equiv | N1(CCCCC1)C1=CC(=C(C=C1)NC(=O)C=1C=C(CSCCC(=O)OC(C)(C)C)C=CC1)C(NC1=NC=C(C=N1)C1=CC(=CC=C1)C(F)(F)F)=O | C38H40F3N5O4S
reactant | 2,2,2-trifluoroacetic acid | 1.7 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3.5 mL | ClCCl | CH2Cl2
product | 3-(3-(4-(piperidin-1-yl)-2-(5-(3-(trifluoromethyl)phenyl)pyrimidin-2-yl-carbamoyl)phenylcarbamoyl)benzylthio)propanoic acid | 12.9 mg, 6% | N1(CCCCC1)C1=CC(=C(C=C1)NC(=O)C=1C=C(CSCCC(=O)O)C=CC1)C(NC1=NC=C(C=N1)C1=CC(=CC=C1)C(F)(F)F)=O | C34H32F3N5O4S
